US04511569
Preparation of 2-Cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one
Heat 11.4 g of 1-dimethylaminomethylene-2-tetralone, 4.46 gm of cyanoacetamide and 6.6 gm of sodium methoxide in 100 ml of dimethylformamide for 8 hours at 80°. Cool and dilute the reaction mixture with 150 ml of acetonitrile. Remove the tan solid by filtration. Dissolve the solid in hot water and filter the mixture. Acidify this aqueous solution with concentrated hydrochloric acid to give a tan precipitate. Filter and wash the tan solid with chloroform to give the title compound, m.p. 301°-3°. Concentrate the remaining dimethylformamide:acetonitrile solution in vacuo to give a green-black residue and chromatograph on 800 ml of silica gel using cloroform:methanol 98:2 as eluant to give an additional amount the title compound.

reactant | 1-dimethylaminomethylene-2-tetralone | 11.4 g | CN(C)C=C1C(CCC2=CC=CC=C12)=O | C13H15NO
reactant | cyanoacetamide | 4.46 gm | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 6.6 gm | C[O-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one | C(#N)C=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C14H10N2O
